US09301526B2
[4-Chloro-6-(trifluoromethyl)pyridin-3-yl]methanol (Int-12) (90 g, 0.426 mol) was added to SOCl2 (700 mL) slowly with ice bath, the mixture was refluxed for 1 hour. The mixture was concentrated and the residue was poured into water (1 L). The mixture was adjusted to pH=7-8 with solid NaHCO3. The mixture was extracted with ethyl acetate (500 mL*3). The combined organic layer was concentrated to yield 4-chloro-5-(chloromethyl)-2-(trifluoromethyl)pyridine (Int-13) (80 g, 87%) as brown syrup which was used for the next step without further purification.

reactant | [4-Chloro-6-(trifluoromethyl)pyridin-3-yl]methanol | 0.426 mol, 90 g | ClC1=C(C=NC(=C1)C(F)(F)F)CO | C7H5ClF3NO
reactant | SOCl2 | 700 mL | O=S(Cl)Cl | Cl2OS
product | 4-chloro-5-(chloromethyl)-2-(trifluoromethyl)pyridine | 80 g, 87% | ClC1=CC(=NC=C1CCl)C(F)(F)F | C7H4Cl2F3N
